US05998452
Preparation of 2-(3,5-Di-tert-butyl-4-hydroxyphenyl)-3-(3-chloropropyl)-5-(1-pyrrolidinecarbonylmethyl)-1,3-thiazolidin-4-one
To a suspension of 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-(3-hydroxypropyl)-5-carboxymethyl-1,3-thiazolidin-4-one (0.61 g) obtained in Reference Example 41 in dichloromethane (20 ml) were added thionyl chloride (0.38 g) and a catalytic amount of dimethylformamide, and the mixture was refluxed for 2 hours. After allowing to cool, the mixture was added dropwise to a solution of pyrrolidine (1.02 g) in dichloromethane (20 ml) under cooling with ice, and stirred at that temperature for 1 hour. After completion of the reaction, the reaction mixture was poured into ice-water and extracted with chloroform. The organic layer was washed successively with 1N hydrochloric acid and brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; chloroform-methanol, 97:3) and then recrystallized from chloroform/n-hexane to yield 0.65 g (92%) of the title compound as colorless crystals. mp 193-194° C. NMR (CDCl3) (200 MHz) δ: 1.43 (18H, s), 1.4-2.2 (6H, m), 2.5-3.1 (2H, m), 3.2-3.7 (8H, m), 4.2-4.5 (1H, m), 5.29 (1H, s), 5.53 (1H, s), 7.08 (2H, s)

reactant | 2-(3,5-di-tert-butyl-4-hydroxyphenyl)-3-(3-hydroxypropyl)-5-carboxymethyl-1,3-thiazolidin-4-one | 0.61 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SC(C(N1CCCO)=O)CC(=O)O | C22H33NO5S
reactant | thionyl chloride | 0.38 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | pyrrolidine | 1.02 g | N1CCCC1 | C4H9N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(3,5-Di-tert-butyl-4-hydroxyphenyl)-3-(3-chloropropyl)-5-(1-pyrrolidinecarbonylmethyl)-1,3-thiazolidin-4-one | 0.65 g, 92% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1SC(C(N1CCCCl)=O)CC(=O)N1CCCC1 | C26H39ClN2O3S
